US05696112
4-(2-Chloro-4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine
A mixture of 5.0 g of 4-(2-chloro-4-nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno [3,2 -b]azepine, 16.8 g of stannous chloride dihydrate in 184 ml of ethanol is heated at 80° C. under argon for 1 hour. The solution is cooled in an ice bath and made basic by the slow careful addition of 1M NaHCO3 (ca. 380 ml). The mixture is stirred for 1 hour at room temperature and extracted with 400 ml of ethyl acetate. The aqueous layer is extracted with an additional 250 ml of ethyl acetate. The extracts are combined and washed with 300 ml of brine, dried (Na2SO4) and filtered through a thin pad of hydrous magnesium silicate. The filtrate is concentrated under vacuum to give a white solid which is recrystallized from ethyl acetate to give 4.23 g of off-white crystals, m.p. 176°-179° C.

reactant | 4-(2-chloro-4-nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno [3,2 -b]azepine | 5.0 g | ClC1=C(C(=O)N2C3=C(CCCC2)SC=C3)C=CC(=C1)[N+](=O)[O-] | C15H13ClN2O3S
reactant | NaHCO3 | 1M, ca. 380 ml | C(=O)(O)[O-].[Na+]
solvent | ethanol | 184 ml | C(C)O | C2H6O
product | 4-(2-Chloro-4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 4.23 g | ClC1=C(C(=O)N2C3=C(CCCC2)SC=C3)C=CC(=C1)N | C15H15ClN2OS
